US07384970B2
Synthesis of 4-nitrophenyl tetrahydropyran-4-yl carbonate
To a solution of tetrahydro-4H-pyran-4-ol (408 mg, 102 mmol) and pyridine (632 mg, 19.1 mmol) in 15 mL of CH2Cl2 was added p-nitrophenyl chloroformate (968 mg, 102 mmol). The mixture was stirred at rt for 30 h. Water was added and the organic layer was separated, and washed with 5% aq. citric acid. The organic layer was treated with an aq. solution of ammonia (NH4OH/H2O: ¼ v/v) for 15 min. The organic layer was separated, washed with aq. sodium bicarbonate and brine. After the solvent was removed, the desire product was isolated as a solid. 1H NMR (CD3Cl, 400 MHz) δ 1.80 (m, 2H), 2.00 (m, 2H), 3.52 (m, 2H), 3.92 (m, 2H), 4.88 (m, 1H), 7.32 (d, J=7 Hz, 2H), 8.21 (d, J=7 Hz, 2H).

reactant | tetrahydro-4H-pyran-4-ol | 102 mmol, 408 mg | O1CCC(CC1)O | C5H10O2
reactant | pyridine | 19.1 mmol, 632 mg | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 102 mmol, 968 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Water | O | H2O
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 4-nitrophenyl tetrahydropyran-4-yl carbonate | C(OC1=CC=C(C=C1)[N+](=O)[O-])(OC1CCOCC1)=O | C12H13NO6
